US05665737
(b) N-(2,6-dihydroxyphenyl)-3-cyclopentyloxy-4-methoxyphenylacetamide
A suspension of 3-cyclopentyloxy-4-methoxyphenylacetic acid (2.49 g) and 1,1'-carbonyldiimidazole (2.31 g) in dichloromethane (10 ml) was stirred at room temperature, under argon, for 2 hours. The resulting solution was added to a stirred suspension of 2-aminoresorcinol (1.62 g) in dichloromethane (15 ml) and the mixture stirred at room temperature, under argon, overnight. The reaction mixture was diluted with water (100 ml) and extracted with dichloromethane (3×50 ml). The combined organic extracts were washed with water (100 ml), 1N HCl (100 ml) and brine (100 ml), dried over CaSO4 and evaporated in-vacuo to yield the title compound (2.122 g, 60%) as a beige solid. δH (250MHz;d6DMSO) 1.53-1.95 (SH,m,4×CH2), 3.65 (2H, s,CH2), 3.70 (3H,s,OMe), 4.75 (1H,m, CH), 6.3 (1H,s,ArH), 6.35 (1H,s,ArH), 6.90 (4H,m,ArH), 9.40 (2H,s,ArOH), 9.6 (1H,s,CONH).

reactant | 3-cyclopentyloxy-4-methoxyphenylacetic acid | 2.49 g | C1(CCCC1)OC=1C=C(C=CC1OC)CC(=O)O | C14H18O4
reactant | 1,1'-carbonyldiimidazole | 2.31 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminoresorcinol | 1.62 g | NC1=C(O)C=CC=C1O | C6H7NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | N-(2,6-dihydroxyphenyl)-3-cyclopentyloxy-4-methoxyphenylacetamide | 2.122 g, 60% | OC1=C(C(=CC=C1)O)NC(CC1=CC(=C(C=C1)OC)OC1CCCC1)=O | C20H23NO5
